US04617146
24 g of crude 2,2,5,8-tetramethyl-bicyclo[4.4.0]deca-1(6),8-diene (43%) in 120 ml of tert.butanol are treated with a solution of 10.5 g of trimethylamine N-oxide in 43 ml of water in a three-necked sulphonation flask equipped with a stirrer, a reflux condenser, a thermometer and an argon flow with a bubble counter. 50 ml of a 0.05% solution of osmium tetroxide in tert.butanol are added thereto. The resulting emulsion is held at reflux temperature for 96 hours with good stirring. The cooled solution is diluted with ether and washed with a saturated sodium chloride solution, with 2N hydrochloric acid and with ice-water. The aqueous phases are extracted twice with ether. After drying the combined organic phases over magnesium sulphate and concentration on a rotary evaporator, 24 g of crude product was obtained. By recrystallization from hexane there are obtained 6 g of 2,2,5,9-tetramethyl-bicyclo[4.4.0]dec-1(6)-ene-8,9-diol of melting point 121°-123° C.

reactant | 2,2,5,8-tetramethyl-bicyclo[4.4.0]deca-1(6),8-diene | 24 g | CC1(C=2CC=C(CC2C(CC1)C)C)C | C14H22
reactant | trimethylamine N-oxide | 10.5 g | C[N+](C)(C)[O-] | C3H9NO
reactant | tert.butanol | 120 ml | C(C)(C)(C)O | C4H10O
solvent | water | 43 ml | O | H2O
solvent | ether | CCOCC | C4H10O
catalyst | osmium tetroxide | [Os](=O)(=O)(=O)=O
product | 2,2,5,9-tetramethyl-bicyclo[4.4.0]dec-1(6)-ene-8,9-diol | 6 g | CC1(C=2CC(C(CC2C(CC1)C)O)(O)C)C | C14H24O2
